US06150360
2,4,6-trichloro-1,3,5-triazine (0.0266 mol) was added to 1,4-dioxane (50 ml) under Ar atmosphere. The solution was stirred until it became homogeneous, then 2,6-dichlorobenzenamine (0.0266 mol) and K2CO3 (0.0362 mol) were added. The reaction mixture was stirred at room temperature for 3 days. The solvent was evaporated. Water was added to the residue and the aqueous phase was extracted with CH2Cl2. The separated organic layer was washed with brine, dried with potassium carbonate, filtered and the filtrate was evaporated, yielding 7.52 g (91.2%) of N-(2,6-dichlorophenyl)-4,6-dichloro-1,3,5-triazin-2-amine (interm. 4).

reactant | 2,4,6-trichloro-1,3,5-triazine | 0.0266 mol | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | 2,6-dichlorobenzenamine | 0.0266 mol | ClC1=C(C(=CC=C1)Cl)N | C6H5Cl2N
reactant | K2CO3 | 0.0362 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-(2,6-dichlorophenyl)-4,6-dichloro-1,3,5-triazin-2-amine | 7.52 g, 91.2% | ClC1=C(C(=CC=C1)Cl)NC1=NC(=NC(=N1)Cl)Cl | C9H4Cl4N4
